US07262192B2
tert-Butyl (3S)-3-(tert-butyloxycarbonylamino)pyrrolidine-1-carboxylate
(3S)-3-(tert-Butyloxycarbonylamino)pyrrolidine (1 g, 5.37 mmol) and triethylamine (1.38 mL, 10.00 mmol) were dissolved in dichloromethane (15 mL) and the reaction mixture stirred for 10 minutes. The reaction mixture was then treated with di-tert-butyl dicarbonate (1.75 g, 8.00 mmol) and stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo and the residue purified by column chromatography on silica gel eluting with pentane:ethyl acetate 80:20 to yield the title product as a white solid, 1.25 g.

reactant | (3S)-3-(tert-Butyloxycarbonylamino)pyrrolidine | 5.37 mmol, 1 g | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1 | C9H18N2O2
reactant | triethylamine | 10.00 mmol, 1.38 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 8.00 mmol, 1.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | tert-Butyl (3S)-3-(tert-butyloxycarbonylamino)pyrrolidine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C14H26N2O4
